US07320973B2
(R)-7-Chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine hydrochloride
3.0 ml of 2 M hydrogen chloride/diethyl ether was added to a solution of (R)-7-chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (0.63 g) in dichloromethane (5 ml), and they were stirred together for 2 hours. The solvent was evaporated under reduced pressure. The obtained residue was stirred in hexane to obtain the title compound in the form of a light brown solid (348 mg, 89%).

reactant | hydrogen chloride diethyl ether | 2 M, 3.0 ml | Cl.C(C)OCC
reactant | (R)-7-chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 0.63 g | ClC1=CC2=C(OCC3=C(N2C[C@@H]2N(CCC2)CCC2=CC4=C(C=C2)OCO4)C=CC=C3)C=C1 | C27H27ClN2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-7-Chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine hydrochloride | Cl.ClC1=CC2=C(OCC3=C(N2C[C@@H]2N(CCC2)CCC2=CC4=C(C=C2)OCO4)C=CC=C3)C=C1 | InChI=1S/C27H27ClN2O3.ClH/c28-21-8-10-25-24(15-21)30(23-6-2-1-4-20(23)17-31-25)16-22-5-3-12-29(22)13-11-19-7-9-26-27(14-19)33-18-32-26;/h1-2,4,6-10,14-15,22H,3,5,11-13,16-18H2;1H/t22-;/m1./s1
